US06864255B2
(4-Chloro-[1,3,5]triazin-2-yl)-[3-(1-trityl-1H-imidazol-2-ylmethyl)phenyl]amine (331 mg, 0.6256 mmol) is combined with 2-chlorobenzimidazole (114.6 mg, 0.7508 mmol) and K2CO3 (190 mg, 1.376 mmol) in AcCN (5 ml) and heated at 65-75° C. for 2 to 20 h. The reaction mix is cooled to RT. The product precipitates out of AcCN, and is filtered off. The crude solid is treated with water, filtered and dried, giving [4-(2-chloro-benzoimidazol-1-yl)-[1,3,5]triazin-2-yl]-[3-(1-trityl-1H-imidazol-2-ylmethyl)phenyl]amine.

reactant | (4-Chloro-[1,3,5]triazin-2-yl)-[3-(1-trityl-1H-imidazol-2-ylmethyl)phenyl]amine | 0.6256 mmol, 331 mg | ClC1=NC(=NC=N1)NC1=CC(=CC=C1)CC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H25ClN6
reactant | 2-chlorobenzimidazole | 0.7508 mmol, 114.6 mg | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | K2CO3 | 1.376 mmol, 190 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | AcCN | 5 ml | C(=O)(C)C#N | C3H3NO
product | [4-(2-chloro-benzoimidazol-1-yl)-[1,3,5]triazin-2-yl]-[3-(1-trityl-1H-imidazol-2-ylmethyl)phenyl]amine | ClC1=NC2=C(N1C1=NC(=NC=N1)NC1=CC(=CC=C1)CC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=CC=C2 | C39H29ClN8
